US08975254B2
a) Ethyl 5-methoxythiazole-2-carboxylate
A mixture of ethyl 2-(2-methoxy-2-oxoethylamino)-2-oxoacetate (1.00 g, 5.29 mmol) and phosphorus pentasulfide (1.29 g, 5.82 mmol) in chloroform (20 ml) was stirred at 60° C. for 7 h. To the cooled reaction mixture DCM (100 ml) was added and the mixture was washed with water (50 ml) and brine (50 ml). Organic phase was dried over Na2SO4 and evaporated. Evaporation residual was dissolved in dry MeCN (10 ml) and phosphorus pentoxide (0.75 g, 5.29 mml) was added and the mixture was heated to reflux for 4.5 h. To the cooled reaction mixture water (35 ml) was added and the mixture was extracted with EtOAc (3×50 ml). Combined organic fractions were dried over Na2SO4 and evaporated to give crude product, which was purified twice by CombiFlash (1st column: silica, eluent: 0-100% EtOAc in heptane; 2nd column: C-18, eluent: 0-100% MeCN in water) to yield 73 mg (7%) of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.42 (t, 3H), 4.01 (s, 3H), 4.43 (q, 2H), 7.30 (s, 1H).

reactant | ethyl 2-(2-methoxy-2-oxoethylamino)-2-oxoacetate | 5.29 mmol, 1.00 g | COC(CNC(C(=O)OCC)=O)=O | C7H11NO5
reactant | phosphorus pentasulfide | 5.82 mmol, 1.29 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 5-methoxythiazole-2-carboxylate | 73 mg, 7% | COC1=CN=C(S1)C(=O)OCC | C7H9NO3S
